* counter, latch DAC

* 10 bit synchronous digital counter
* inhibit at overflow, no revolving
.subckt count10 din dinb dclk drs dout1 dout2 dout3 dout4 dout5 dout6 dout7 dout8 dout9 dout10 

* j k clk set reset out nout
ajk1 din dinb diclk ds1 drs dout1 dnout1 jkflop
ajk2 dout1 dout1 diclk ds2 drs dout2 dnout2 jkflop
ajk3 djk3 djk3 diclk ds3 drs dout3 dnout3 jkflop
ajk4 djk4 djk4 diclk ds4 drs dout4 dnout4 jkflop
ajk5 djk5 djk5 diclk ds1 drs dout5 dnout5 jkflop
ajk6 djk6 djk6 diclk ds2 drs dout6 dnout6 jkflop
ajk7 djk7 djk7 diclk ds3 drs dout7 dnout8 jkflop
ajk8 djk8 djk8 diclk ds4 drs dout8 dnout8 jkflop
ajk9 djk9 djk9 diclk ds3 drs dout9 dnout9 jkflop
ajk10 djk10 djk10 diclk ds4 drs dout10 dnout10 jkflop

aand1 [dout1 dout2] djk3 and1
aand2 [dout1 dout2 dout3] djk4 and1
aand3 [dout1 dout2 dout3 dout4] djk5 and1
aand4 [dout1 dout2 dout3 dout4 dout5] djk6 and1
aand5 [dout1 dout2 dout3 dout4 dout5 dout6] djk7 and1
aand6 [dout1 dout2 dout3 dout4 dout5 dout6 dout7] djk8 and1
aand7 [dout1 dout2 dout3 dout4 dout5 dout6 dout7 dout8] djk9 and1
aand8 [dout1 dout2 dout3 dout4 dout5 dout6 dout7 dout8 dout9] djk10 and1

* inhibit revolving of counter, just let it saturate
* (footnote p. 57)
aand_all [dout1 dout2 dout3 dout4 dout5 dout6 dout7 dout8 dout9 dout10] dinhibit nand1
aandclk [dclk dinhibit] diclk and1


.model nand1 d_nand(rise_delay = 1e-9 fall_delay = 1e-9
+ input_load = 0.5e-12)

.model and1 d_and(rise_delay = 1e-9 fall_delay = 1e-9
+ input_load = 0.5e-12)

.model jkflop d_jkff(clk_delay = 1.0e-9 set_delay = 1e-9
+ reset_delay = 1e-9 ic = 0 rise_delay = 1.0e-9
+ fall_delay = 1e-9)

.ends count 10

** 10 bit edge triggered latch
.subckt latch10 din1 din2 din3 din4 din5 din6 din7 din8 din9 din10
+ dout1 dout2 dout3 dout4 dout5 dout6 dout7 dout8 dout9 dout10 dclk

*data clk set reset out nout
aff1 din1 dclk dzero dzero dout1 dnout1 flop1
aff2 din2 dclk dzero dzero dout2 dnout2 flop1
aff3 din3 dclk dzero dzero dout3 dnout3 flop1
aff4 din4 dclk dzero dzero dout4 dnout4 flop1
aff5 din5 dclk dzero dzero dout5 dnout5 flop1
aff6 din6 dclk dzero dzero dout6 dnout6 flop1
aff7 din7 dclk dzero dzero dout7 dnout7 flop1
aff8 din8 dclk dzero dzero dout8 dnout8 flop1
aff9 din9 dclk dzero dzero dout9 dnout9 flop1
aff10 din10 dclk dzero dzero dout10 dnout10 flop1

.model flop1 d_dff(clk_delay = 1e-9 set_delay = 0
+ reset_delay = 0 ic = 0 rise_delay = 1e-9
+ fall_delay = 1e-9)

.ends latch10

** emulation of 10 bit DAC
.subckt dac10  din1 din2 din3 din4 din5 din6 din7 din8 din9 din10 aout
.param vref=1
abridge1 [din1 din2 din3 din4 din5 din6 din7 din8 din9 din10] 
+ [ain1 ain2 ain3 ain4 ain5 ain6 ain7 ain8 ain9 ain10] dac1
BVout aout 0 V = 'vref'*(v(ain10)/2 + v(ain9)/4 + v(ain8)/8 + v(ain7)/16 + v(ain6)/32 +
+ v(ain5)/64 + v(ain4)/128 + v(ain3)/256 + v(ain2)/512 + v(ain1)/1024)

.model dac1 dac_bridge(out_low = 0 out_high = 1 out_undef = 0.5
+ input_load = 5.0e-12 t_rise = 1e-9
+ t_fall = 1e-9)

.ends dac10

